US04175127
2-(2-Propylthio)-4-(4-Methoxyphenyl)-5-(4-Pyridyl)Imidazole
4-(4-Methoxyphenyl)-5-(4-pyridyl)-2-mercaptoimidazole (2.2 g, 8 mm) was covered with 25 ml of dimethylformamide and sodium hydride (13 mm) was added. 2-Bromopropane (1.10 g, 9.5 mm) was added in a dimethylformamide solution (20 ml) and the reaction was allowed to stir at room temperature overnight. Pouring the solution into water precipitated the product which was taken up in chloroform, dried and evaporated to an oil which crystallized by the addition of ether. Yield of the title product was 1.5 g, m.p. 206°-210°.

reactant | 4-(4-Methoxyphenyl)-5-(4-pyridyl)-2-mercaptoimidazole | 2.2 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=NC=C1)S | C15H13N3OS
reactant | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | [H-].[Na+]
reactant | 2-Bromopropane | 1.10 g | BrC(C)C | C3H7Br
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-(2-Propylthio)-4-(4-Methoxyphenyl)-5-(4-Pyridyl)Imidazole | CC(C)SC=1NC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=NC=C1 | C18H19N3OS
